US09215876B2
Preparation of 6-phenyl-1,3,6-dioxazocan-2-one (DXA-Ph)
The procedure of Example 1 was followed using N-phenyldiethanolamine (15.2 g, 83.9 mmol), triethylamine (24.0 mL, 167.8 mmol), dry THF (600 mL) and triphosgene (8.3 g, 28.8 mmol). The filtrate was concentrated yielding a clear oil containing a mixture of products. The product was purified using a column chromatography EtOAc:Hexanes (3:1) yielding 3.3 g (19%) of a clear oil which turned brown over time.

reactant | N-phenyldiethanolamine | 83.9 mmol, 15.2 g | C1(=CC=CC=C1)N(CCO)CCO | C10H15NO2
reactant | triethylamine | 167.8 mmol, 24.0 mL | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 28.8 mmol, 8.3 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | THF | 600 mL | C1CCOC1 | C4H8O
product | 6-phenyl-1,3,6-dioxazocan-2-one | 3.3 g, 19% | C1(=CC=CC=C1)N1CCOC(OCC1)=O | C11H13NO3
